US07465809B2
N-(4-Cyano-3-trifluoromethyl-phenyl)-2-trifluoromethyl-acrylamide
2-Trifluoromethyl-acrylic acid (36.0 mmoL) in thionyl chloride (2.86 mL) was refluxed for 30 min. Excess thionyl chloride was removed in vacuo to yield a residue. 4-Amino-2-trifluoromethyl-benzonitrile (36.0 mmoL) in diethyl ether (50 mL) was added dropwise to the residue at −40C. The reaction mixture was slowly warmed to room temperature. The reaction mixture was then partitioned between diethyl ether and water. The diethyl ether layer was washed with saturated sodium bicarbonate, then brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The crude material (the brown oil) was then purified by column chromatography (silica gel, using ethyl acetate as eluent) to yield the title compound as yellow solid.

reactant | 2-Trifluoromethyl-acrylic acid | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | 4-Amino-2-trifluoromethyl-benzonitrile | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
solvent | thionyl chloride | 2.86 mL | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | N-(4-Cyano-3-trifluoromethyl-phenyl)-2-trifluoromethyl-acrylamide | C(#N)C1=C(C=C(C=C1)NC(C(=C)C(F)(F)F)=O)C(F)(F)F | C12H6F6N2O
